US09359338B2
Step 2: Synthesis of 3-amino-5-(trifluoromethyl)benzohydrazide
Mix methyl 3-nitro-5-(trifluoromethyl)benzoate (1.8 g, 12 mmol), ethanol (6 mL) and 80% (w/w) hydrazine (10 mL), reflux overnight. Concentrate the mixture, partition the resulting residue between ethyl acetate and water, collect the organic layer, wash with sodium bicarbonate, dry over anhydrous sodium sulfate, and concentrate under reduced pressure to give the crude product (1.23 g, 77%) which is used in next step without further purification.

reactant | methyl 3-nitro-5-(trifluoromethyl)benzoate | 12 mmol, 1.8 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H6F3NO4
reactant | hydrazine | 10 mL | NN | H4N2
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 3-amino-5-(trifluoromethyl)benzohydrazide | 1.23 g, 77% | NC=1C=C(C(=O)NN)C=C(C1)C(F)(F)F | C8H8F3N3O
